US05558971
To a solution of trifluoromethanesulfonic anhydride (6.5 g, 23 mmole) in methylene chloride (20 ml), a solution of N-hydroxy-bicyclo[2,2,1]-hept-5-ene-2,3-dicarboximide (3.6 g, 20 mmole) and pyridine (1.6 g) in methylene chloride (10 ml) was added dropwise at 0°-5° C. and continued to stir for 15 minutes at the same temperature. The reaction mixture was washed with H2O (20 ml×3), dried over anhydrous Mg SO4 and evaporated. The residue was recrystallized from ethanol to give 6.1 g of N-trifluoromethanesulfonyloxy-bicyclo[2,2,1]-hept-5-ene-2,3-dicarboximide as white needles. m.p. 89°-90° C.

reactant | trifluoromethanesulfonic anhydride | 23 mmole, 6.5 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | N-hydroxy-bicyclo[2,2,1]-hept-5-ene-2,3-dicarboximide | 20 mmole, 3.6 g | ON1C(=O)C2C3C=CC(C2C1=O)C3 | C9H9NO3
reactant | pyridine | 1.6 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-trifluoromethanesulfonyloxy-bicyclo[2,2,1]-hept-5-ene-2,3-dicarboximide | 6.1 g | FC(S(=O)(=O)ON1C(=O)C2C3C=CC(C2C1=O)C3)(F)F | C10H8F3NO5S
